US07335658B2
5-[1,2]DITHIOLAN-3-YL-PENTANOIC ACID {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}AMIDE
Following the procedure of Example 2, making variations only as required to use lipoic acid in place of benzyloxyacetic acid to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (yield 8%). 1H NMR (300 MHz, CDCl3) δ 10.11, 8.37, 7.72, 7.61, 7.53, 7.35, 7.04, 4.08-3.84, 3.70-3.57, 3.56-3.46, 3.33-3.30, 3.17-3.02, 2.59, 2.39, 1.84, 1.78-1.56, 1.51-1.37. 13C NMR (300 MHz, CDCl3): 172.52, 167.57, 157.94, 150.00, 134.42, 132.38, 129.45, 127.79, 127.29, 127.14, 126.93, 126.88, 126.82, 121.92, 116.27, 56.34, 46.47, 45.65, 45.33, 41.25, 40.26, 38.49, 37.05, 34.74, 28.85, 25.14. MS (ES+) m/e 540.1 (M+1).

reactant | lipoic acid | C1CSS[C@@H]1CCCCC(=O)O | C8H14O2S2
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 5-[1,2]DITHIOLAN-3-YL-PENTANOIC ACID {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}AMIDE | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)NC(CCCCC2SSCC2)=O)C=CC=C1)(F)F | C24H28F3N5O2S2
